US08541588B2
4-{2-[2-(aminomethyl)pyridin-4-yl]-4-chlorophenoxy}-5-chloro-2-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
5-chloro-4-[4-chloro-2-(2-cyanopyridin-4-yl)phenoxy]-N-(2,4-dimethoxybenzyl)-2-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 340, 0.04 g, 0.00006 mol) was partially dissolved in methanol (5.0 mL) and 1,4-dioxane (5.0 mL). The solution was passed through an H-Cube™ at 70° C. with Raney nickel catalyst (30 mm cartridge) 3 times eluting with methanol to get complete conversion. Concentration in vacuo afforded the title compound as a colourless solid, 0.004 g, 10% yield.

reactant | 5-chloro-4-[4-chloro-2-(2-cyanopyridin-4-yl)phenoxy]-N-(2,4-dimethoxybenzyl)-2-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 0.00006 mol, 0.04 g | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)F)OC1=C(C=C(C=C1)Cl)C1=CC(=NC=C1)C#N | C29H20Cl2FN5O5S2
solvent | methanol | 5.0 mL | CO | CH4O
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | [Ni] | Ni
product | 4-{2-[2-(aminomethyl)pyridin-4-yl]-4-chlorophenoxy}-5-chloro-2-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 10% yield | NCC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)NC2=NC=NS2)F)C=CC(=C1)Cl | C20H14Cl2FN5O3S2
